US07053212B2
Step C: N-(3-Hydroxy-benzyl)-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide
To a solution of N-(4-iodo-phenyl)-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide (0.506 g, 0.86 mmol) in 5 mL tetrahydrofuran was added HCl (5.35 mL of a 4.0 M solution in 1,4-dioxane, 21.4 mmol) and triethylsilane (1.37 mL, 8.56 mmol). The reaction mixture was stirred at room temperature overnight. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with methylene chloride. The organic layer was separated and concentrated. Medium pressure silica gel chromatography of the residue (methylene chloride) afforded 0.36 g (83%) of the title compound of Step C.

reactant | N-(4-iodo-phenyl)-2,4,6-trimethyl-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.86 mmol, 0.506 g | IC1=CC=C(C=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)CC1=CC(=CC=C1)OC1OCCCC1 | C27H30INO4S
reactant | HCl | Cl | ClH
reactant | triethylsilane | 8.56 mmol, 1.37 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-(3-Hydroxy-benzyl)-N-(4-iodo-phenyl)-2,4,6-trimethyl-benzenesulfonamide | 0.36 g, 83% | OC=1C=C(CN(S(=O)(=O)C2=C(C=C(C=C2C)C)C)C2=CC=C(C=C2)I)C=CC1 | C22H22INO3S
